US05216015
Step 7: Preparation of 3α,7α-diacetoxy-12α-hydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane
A mixture of 3α,7α,12α-trihydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane (2.65 g), acetic anhydride (2.4 ml), and 4-dimethylaminopyridine (0.061 g) in toluene (10 ml) is stirred at room temperature for about 30 minutes, diluted with ether and water and the layers are separated. The organic solution is washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product.

reactant | 3α,7α,12α-trihydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | 2.65 g | O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C)O | C36H48O3
reactant | acetic anhydride | 2.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 0.061 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3α,7α-diacetoxy-12α-hydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | C(C)(=O)O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C)OC(C)=O | C40H52O5
